US09216980B2
3-Hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile
A solution of 3-hydroxy-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile (90.9 mg, 0.267 mmol) in 1,4-dioxane (500 μL) was treated with 48% aqueous hydrobromic acid (500 μL) and heated at 75° C. for 10 min. The cooled reaction mixture was basified to pH 12 with 6N aqueous sodium hydroxide solution and then adjusted to pH 7-9 with dropwise addition of 1N hydrochloric acid. The solid was collected via centrifugation, the aqueous supernate discarded, and the solid dissolved in 1-2 mL of DMSO and purified by preparative HPLC (0-30% MeCN in water (0.1% formic acid) over 30 min, 35 mL/min) to afford the title compound as an off-white solid (19 mg, 33%). 1H NMR (DMSO-D6, 400 MHz,): 12.51 (s, 1H), 9.94 (s, 1H), 8.94 (s, 1H), 8.87 (s, 1H), 8.32 (d, J=2.7 Hz, 1H), 8.08 (d, J=2.7 Hz, 1H). LCMS (Method E): RT=2.90 min, M+H+=211.

reactant | 3-hydroxy-9-(2-trimethylsilanylethoxymethyl)-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 0.267 mmol, 90.9 mg | OC1=CC2=C(N(C3=C2C=C(N=C3)C#N)COCC[Si](C)(C)C)N=C1 | C17H20N4O2Si
reactant | hydrobromic acid | 500 μL | Br | BrH
reactant | sodium hydroxide | 6N | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | 1,4-dioxane | 500 μL | O1CCOCC1 | C4H8O2
product | 3-Hydroxy-9H-dipyrido[2,3-b;4′,3′-d]pyrrole-6-carbonitrile | 19 mg, 33% | OC1=CC2=C(NC3=C2C=C(N=C3)C#N)N=C1 | C11H6N4O
